Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
chlorthalidone
 
Attending: ___
 
Chief Complaint:
headache, diplopia

 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Mr. ___ is an extremely pleasant ___ man with
HTN and HLD (denies DM2 but OMR reports DM2) who presents with
several days of headache and new onset diplopia. 

Headache started on ___. It is an irritating headache that is
not pounding, located on his left parietal area. Left eye is 
also
tender to touch. When he looks to the left, he feels like his
left eye is "tugging." Pain comes and goes, not associated with
photophobia or phonophobia. Endorses nausea and vomiting, which
worsened on ___ and ___. Denies diarrhea. Because of this
headache, he drove himself to the ED. Denies any recent
infections.

While he was driving, however, he noticed that he started seeing
two cars instead of just one. Images were side by side and worse
when looking far away compared to looking at anything up close.
He also thought the images were further apart from one another
when looking to the left and would come back together again when
looking to the right. When he covered one eye, he would just see
one image. This was not constant and seemed to come and go.  

He denies any weakness. Denies feeling tired at the end of
climbing stairs or being more tired at night compared to the
morning. 

 
Past Medical History:
anemia, HTN, HLD

 
Social History:
___
Family History:
father with stroke, no one with any autoimmune
diseases

 
Physical Exam:
Admission Exam: 
Vitals:  T: 99.2F  HR: 80  BP: 166/86  RR: 18  SaO2: 99% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: breathing comfortably on RA. Able to count past 40 in
1 breath. 
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full
sentences and intact verbal comprehension. No paraphasias. No
dysarthria. Normal prosody. No left-right confusion.  Able to
follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
No ptosis. No Horner's. L eye ABduction deficit, minimally cross 
midline, outer image disappears when covering the left eye.  
Vertical diplopia on upgaze with elevation deficit in left eye. 
Upper image disappears when covering the left eye. No nystagmus. 
V1-V3
without deficits to light touch bilaterally. ?R NLFF. Hearing
intact to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
After 20 deltoid pumps, left deltoid was a 4+.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    4+     5     5     5    5 
 R   5     5     5     5     5    4+     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
  L  2+    2+     2+      2+       1
  R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch or pin throughout

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: deferred

==========================================
Discharge Exam: 

Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
No ptosis. No Horner's. L eye ABduction deficit much improved 
from prior - still unable to bury the sclera, outer image 
disappears when covering the left eye.  Vertical diplopia on 
upgaze with elevation deficit in left eye. Upper image 
disappears when covering the left eye. No nystagmus. V1-V3
without deficits to light touch bilaterally. Face activates 
symmetrically. Palate elevation symmetric. Tongue midline.

Neurologic exam otherwise nonfocal and unchanged. 

 
Pertinent Results:
HgA1c 5.3%

ALT 14 AST 17 Alk Phos 104 TBili 0.3

TCholesterol 229 HDL 74 LDL 136

TSH 2.8 

WBC 4.6 Hgb 11.4 Hct 33.7 MCV 89 PLT 265

ANCA NEGATIVE

___ positive 1:40*
*ROUGHLY 20% OF HEALTHY INDIVIDUALS HAVE ___ TITERS OF 1:40 OR 
1:80
HIGHER TITERS(1:160 AND ABOVE) ARE SEEN IN ONLY 5% OF NORMALS

CRP 2.8

dsDNA Negative

PROTEIN AND IMMUNOELECTROPHORESIS
PEP pending
IgG 882
IgA 300 
IgM 184
IFE pending

___ negative

ESR 11

ACE wnl

CSF WBC 1 RBC 21 Poly 0 Lymph ___ Mono 21
TotProt 39 Glucose 67
Gram stain negative
CSF Culture pending

Serum Lyme IgG-PENDING; Lyme IgM-PENDING

RAPID PLASMA REAGIN TEST- Nonreactive

========================
IMAGING 

NCHCT ___
No acute intracranial process. 
.
.

CXR ___
IMPRESSION:  
  
No acute cardiopulmonary process. 
.
.
BRAIN MRI ___
 
1. Symmetric and unremarkable appearance of the bilateral 
cavernous sinuses. 
2. No evidence of  hemorrhage.  No mass, mass effect, edema, or 
abnormal 
enhancement. 
3. Mild global parenchymal volume loss and evidence of chronic 
small vessel ischemic disease. 

ADDENDUM  On further review, there is mild, asymmetric 
enhancement and T2 
hyperintensity within the left retro bulbar orbital fat (11: 2, 
10:14).  This appears to extend towards the orbital apex on the 
left without definite involvement of the cavernous sinus. 
  
These findings are incompletely evaluated on this nondedicated 
study, but may reflect an inflammatory etiology such as 
idiopathic orbital inflammation (pseudotumor), versus an early 
infectious etiology.  Recommend correlation with clinical exam 
findings and appropriate laboratory values. 
.
.
CYTOLOGY ___ --- PENDING
  

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with HTN and HLD who presented 
with
unilateral headache over left eye, nausea, vomiting and acute
onset diplopia worse with left lateral gaze. On exam, he
had a left CN VI palsy and partial left CN III palsy - with L 
eye ABduction deficit and elevation deficit as well as an 
intermittent R esotropia that resolved when isolating the right 
eye. The intermittent R esotropia is thought to be an unmasked 
baseline finding. He was afebrile and his headache resolved 
without intervention however his gaze palsy and diplopia 
persisted. He had no papilledema on exam. His brain MRI was 
negative for cavernous sinus thrombosis but it did show evidence 
of left superior and posterior orbital inflammation. He had a 
lumbar puncture which showed no CSF pleocytosis and normal 
protein and glucose. LFTs were normal. HgA1c 5.3%. LDL elevated 
at 136. TSH 2.8. RPR nonreactive. ESR and CRP were normal. 
Autoimmune testing including ANCA, dsDNA and ___ 
antibodies were negative. ___ was positive however titers were 
only 1:40 which can be seen in normal individuals. ACE negative. 
Lyme were pending at time of discharge. 

Given unilateral headache preceding diplopia, orbital 
inflammation seen on MRI, left ___ nerve palsy, and partial ___ 
nerve palsy without other etiology, patient was diagnosed with 
___ Hunt Syndrome/orbital pseudotumor. 

He was treated with 3 days of high dose (1g/day) IV 
methylprednisolone which he tolerated well without significant 
side effects. He received famotidine for GI prophylaxis and 
ramelteon to help with sleep while on steroids. Blood sugar 
while receiving steroids ranged from 100-200. Blood pressure 
during admission ranged from 130s-170s systolic while on home 
antihypertensive medications. 

Patient's vision improved throughout admission after the 
initiation of steroids and at time of discharge his physical 
exam was notable for intermittent R esotropia resolving when 
isolating the eye, persistent left eye ABduction deficit much 
improved compared to admission with double vision only on far 
lateral gaze. His vertical diplopia resolved. 

He will continue a 6 week oral steroid taper after discharge.

Transitional Issues: 
[ ] Neurology follow up
[ ] f/u Lyme IgM and IgG, Cytology
[ ] continue famotidine and ramelteon as needed for sleep 
difficulties while on steroids
[ ] continue oral prednisone taper for 6 weeks
60mg daily for 1 week, 50mg daily for 1 week, continuing to go 
down by 10 mg/day each week until stop. 
 
Medications on Admission:
- cozaar 100mg qd
- ASA 81mg qd
- fluticasone 50mg 2 sprays
- HCTZ 25mg qd
- loratidine 10mg qd
- simvastatin 40mg qd

 
Discharge Medications:
1.  Famotidine 40 mg PO DAILY Duration: 3 Days 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*84 
Tablet Refills:*0 
2.  PredniSONE 60 mg PO DAILY 
60mg daily for 1 week, go down by 10mg/day each week.  
Tapered dose - DOWN 
RX *prednisone 10 mg 6 tablet(s) by mouth daily Disp #*147 
Tablet Refills:*0 
3.  Ramelteon 8 mg PO QHS Duration: 3 Days 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth at bedtime 
Disp #*45 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Loratadine 10 mg PO DAILY  
8.  Losartan Potassium 100 mg PO DAILY  
9.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ Hunt Syndrome

 
Discharge Condition:
Note that the discharge procedures took over 30 min to complete 
a discharge exam, address all questions and concerns, explain 
plans and set up proper follow-up.

Patient is alert and oriented. He is able to ambulate 
independently. 
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the neurology service because you were 
having problems with your vision and eye movements. You had a 
brain MRI which showed some inflammation behind your left eye 
which caused your headache and difficulty with eye movements. 
The trouble moving your left eye caused you to have double 
vision. We call this inflammation and difficulty with eye 
movements ___ Hunt Syndrome." 

You had a spinal tap which did not show any significant 
inflammation in your spinal fluid and there was no evidence of 
infection. We also sent other blood tests for autoimmune 
conditions which could cause the inflammation behind your eye 
and these tests were negative. 

We treated you with IV steroids for 3___ days which you 
tolerated well and now your eye movements have improved. You 
also will continue to take steroids by mouth after discharge for 
____ days. 

When you leave the hospital, you should follow up with your 
primary care doctor and neurology. 

If you have any worsening visual problems or new concerning 
symptoms, you should call your doctor or return to the Emergency 
Department.

Please resume all medications as prior to discharge unless 
otherwise indicated.

Congratulations on quitting smoking. We hope you are able to 
continue this after discharge from the hospital!

Thank you for allowing us to participate in your care. 

Best wishes, 

The ___ Neurology Team
 
Followup Instructions:
___